US04508716
9.3 g of 1,2,3,4,4a,5-hexahydro-3,9-dimethyl-7-(2-furyl)-pyrazino[1,2-a][1,4]benzodiazepine 6-oxide (prepared analogously to Example 5) are heated under reflux in 150 ml of chloroform with 17 ml of phosphorus trichloride for 1 hour. The reaction mixture is then treated with aqueous sodium hydroxide solution and worked up. The resulting crude product is separated into its components by chromatography on aluminium oxide of activity level II, using methylene chloride/chloroform. 1.7 g of the less polar 1,2,3,4,4a,5-hexahydro-3,9-dimethyl-7-(5-chloro-2-furyl)-pyrazino[1,2-a][1,4]benzodiazepine are thereby initially obtained in the first fraction, and the product is isolated as an oil (IR: 1,615 cm-1C=N) (b). 5 g of the more highly polar 1,2,3,4,4a,5-hexahydro-3,9-dimethyl-7-(2-furyl)-pyrazino[1,2-a][1,4]benzodiazepine (a) are then obtained.

reactant | 1,2,3,4,4a,5-hexahydro-3,9-dimethyl-7-(2-furyl)-pyrazino[1,2-a][1,4]benzodiazepine 6-oxide | 9.3 g | CN1CC2N(C3=C(C(=[N+](C2)[O-])C=2OC=CC2)C=C(C=C3)C)CC1 | C18H21N3O2
reactant | phosphorus trichloride | 17 ml | P(Cl)(Cl)Cl | Cl3P
reactant | sodium hydroxide | [OH-].[Na+]
solvent | chloroform | 150 ml | C(Cl)(Cl)Cl | CHCl3
product | 1,2,3,4,4a,5-hexahydro-3,9-dimethyl-7-(5-chloro-2-furyl)-pyrazino[1,2-a][1,4]benzodiazepine | 1.7 g | CN1CC2N(C3=C(C(=NC2)C=2OC(=CC2)Cl)C=C(C=C3)C)CC1 | C18H20ClN3O
